*** Edits by Hui Wu and Sasanka Munasinghe; 2024-04-07
*** Change from PSPICE to HSPICE syntax

* BUF634A - Rev. A
* Created by Sean Cashin; 2020-11-20
* Created with Green-Williams-Lis Current Sense Amp Macro-model Architecture
* Copyright 2020 by Texas Instruments Corporation
******************************************************
* MACRO-MODEL SIMULATED PARAMETERS:
******************************************************
* AC PARAMETERS
**********************
* CLOSED-LOOP OUTPUT IMPEDANCE VS. FREQUENCY (Zout vs. Freq.)
* CLOSED-LOOP GAIN AND PHASE VS. FREQUENCY  WITH RL, CL EFFECTS (Acl vs. Freq.)
* COMMON-MODE REJECTION RATIO VS. FREQUENCY (CMRR vs. Freq.)
* POWER SUPPLY REJECTION RATIO VS. FREQUENCY (PSRR vs. Freq.)
* INPUT VOLTAGE NOISE DENSITY VS. FREQUENCY (en vs. Freq.)
**********************
* DC PARAMETERS
**********************
* INPUT COMMON-MODE VOLTAGE RANGE (Vcm)
* GAIN ERROR (Eg)
* INPUT BIAS CURRENT VS. INPUT COMMON-MODE VOLTAGE (Ib vs. Vcm)
* INPUT OFFSET VOLTAGE VS. TEMPERATURE (Vos vs. Temp)
* OUTPUT VOLTAGE SWING vs. OUTPUT CURRENT (Vout vs. Iout)
* SHORT-CIRCUIT OUTPUT CURRENT (Isc)
* QUIESCENT CURRENT (Iq)
**********************
* TRANSIENT PARAMETERS
**********************
* SLEW RATE (SR)
* SETTLING TIME VS. CAPACITIVE LOAD (ts)
* OVERLOAD RECOVERY TIME (tor)
******************************************************
.subckt BUF634A IN+ OUT VCC VEE
******************************************************
***.model R_NOISELESS RES (T_ABS=-273.15)
.model R_NOISELESS R noise=0

C_C1         N918956 MID  159.2F   
C_C10         MID N42834  1E-15   
C_C11         N44757 MID  1E-15   
C_C12         MID N45892  1E-15   
C_C13         N45974 MID  1E-15   
C_C14         MID N56659  1E-15   
C_C15         N56721 MID  1E-15   
C_C16         MID N61579  1E-15   
C_C1A10         N709083 N709139  291.7P   
C_C1A2         N797835 N706292  700.2P   
C_C20         N79181 MID  1N   
C_C33         N406634 0  1E-15   
***Edits by Hui Wu: debug transient convengence issue
***C_C34         N317950 0  1   
C_C34	      N317950 0 1e-3
C_C35         N406794 0  1E-15   
C_C7         N31014 MID  1E-15   
C_C8         MID N35813  1E-15   
C_C9         MID N38096  1E-15   
C_C_CMP         ESDP MID  5E-12   
C_C_VIMON         MID VIMON  1E-10
C_C_VOUT_S         MID VOUT_S  1E-10   
E_E3         N112292 MID OUT MID 1
G_G12         VSENSE MID N79181 MID -1E-3
G_G15         CLAW_CLAMP MID VSENSE MID -1E-3
G_G16         CL_CLAMP MID CLAW_CLAMP MID -1E-3
G_G3         N797835 MID VEE_B MID -7.822
G_G36         VCC_B 0 VCC 0 -1
G_G37         VEE_B 0 VEE 0 -1
G_G59         N709083 MID VCC_B MID -3.259
G_G6         N25816 N11984 N709139 N706292 -1E-3
G_G8         VCC_CLP MID N35813 MID -1E-3
G_G9         VEE_CLP MID N38096 MID -1E-3
G_GB11         N910865 MID N910505 MID -2.6K
G_GB12         N910769 MID CL_CLAMP ZO -1
I_I_B         N06456 MID DC 0.25E-6  
I_I_Q         VCC VEE DC 0.0013  
L_L2         N922543 N79181  0.8N  
R_R1         ESDP IN+ R_NOISELESS 10E-3
R_R107         VCC_B 0 R_NOISELESS 1
R_R108         N317950 0 R_NOISELESS 1E12
R_R109         VEE_B 0 R_NOISELESS 1
R_R110         VCC_B N406634 R_NOISELESS 1E-3
R_R111         N406634 N317950 R_NOISELESS 1E6
R_R112         N317950 N406794 R_NOISELESS 1E6
R_R113         N406794 VEE_B R_NOISELESS 1E-3
R_R12         MID ZO R_NOISELESS 1K
R_R142         N709083 MID R_NOISELESS 1
R_R143         N797835 MID R_NOISELESS 1
R_R150         MID CLAMP R_NOISELESS 1
R_R151         ZO N910865 R_NOISELESS 10K
R_R153         MID N910865 R_NOISELESS 1
R_R155         VCC VEE R_NOISELESS 180K
R_R1A11         N709083 N709139 R_NOISELESS 10K
R_R1A2         N797835 N706292 R_NOISELESS 10K
R_R21         N11984 N25816 R_NOISELESS 1E3
R_R25         MID N28602 R_NOISELESS 1E9
R_R26         N30136 MID R_NOISELESS 1E9
R_R27         MID N30913 R_NOISELESS 1
R_R28         N31014 N30913 R_NOISELESS 1E-3
R_R29         N35669 VCC_B R_NOISELESS 1E3
R_R2A11         N709139 MID R_NOISELESS 0.5456
R_R2A2         N706292 MID R_NOISELESS 0.2273
R_R3         MID ESDP R_NOISELESS 180MEG
R_R30         N35813 N35669 R_NOISELESS 1E-3
R_R31         VCC_CLP MID R_NOISELESS 1E3
R_R32         N38050 VEE_B R_NOISELESS 1E3
R_R33         N38096 N38050 R_NOISELESS 1E-3
R_R34         VEE_CLP MID R_NOISELESS 1E3
R_R35         MID VCC_CLP R_NOISELESS 1E9
R_R36         N42663 MID R_NOISELESS 1
R_R37         N42834 N42663 R_NOISELESS 1E-3
R_R38         N44757 N44799 R_NOISELESS 1E-3
R_R39         MID N44799 R_NOISELESS 1
R_R40         MID VEE_CLP R_NOISELESS 1E9
R_R41         MID N50645 R_NOISELESS 1E9
R_R42         N45856 MID R_NOISELESS 1
R_R43         N45892 N45856 R_NOISELESS 1E-3
R_R44         N45974 N45986 R_NOISELESS 1E-3
R_R45         MID N45986 R_NOISELESS 1
R_R46         MID N48550 R_NOISELESS 1E9
R_R49         MID N56919 R_NOISELESS 1E9
R_R50         N56635 MID R_NOISELESS 1
R_R51         N56659 N56635 R_NOISELESS 1E-3
R_R52         N56721 N56733 R_NOISELESS 1E-3
R_R53         MID N56733 R_NOISELESS 1
R_R54         MID N56891 R_NOISELESS 1E9
R_R55         N61579 VSENSE R_NOISELESS 1E-3
R_R61         MID N79181 R_NOISELESS 1K
R_R62         MID VSENSE R_NOISELESS 1E3
R_R65         MID CLAW_CLAMP R_NOISELESS 1E3
R_R66         MID CL_CLAMP R_NOISELESS 1E3
R_R73         MID N910769 R_NOISELESS 1
R_R74         N910505 N910769 R_NOISELESS 23.41K
R_R75         N918956 N910505 R_NOISELESS 10
R_R81         MID N110431 R_NOISELESS 1E9
R_R83         MID N112292 R_NOISELESS 1E9
R_R9         N638952 N11984 R_NOISELESS 1E-3
R_R_VIMON         VIMON N110431 R_NOISELESS 1
R_R_VOUT_S         VOUT_S N112292 R_NOISELESS 1
V_VCM_MAX         N30136 VCC_B -2
V_VCM_MIN         N28602 VEE_B 2
V_V_GRN         N56891 MID -41
V_V_GRP         N56919 MID 41
V_V_ISCN         N48550 MID -374
V_V_ISCP         N50645 MID 356
X_AOL_2         N31014 MID MID CLAMP AOL_2_BUF634A 
X_CLAWN         MID VIMON VEE_B N38050 CLAWN_BUF634A 
X_CLAWP         VIMON MID N35669 VCC_B CLAWP_BUF634A 
X_CLAW_AMP         VCC_CLP VEE_CLP VOUT_S MID N42663 N44799 CLAMP_AMP_LO_BUF634A 
X_CLAW_SRC         N42834 N44757 CLAW_CLAMP MID CLAW_SRC_BUF634A 
X_CL_AMP         N50645 N48550 VIMON MID N45856 N45986 CLAMP_AMP_LO_BUF634A 
X_CL_SRC         N45892 N45974 CL_CLAMP MID CL_SRC_BUF634A 
X_ESD_IN         MID ESDP VCC VEE ESD_IN_BUF634A 
X_ESD_OUT         OUT VCC VEE ESD_OUT_BUF634A 
X_E_N         ESDP N06456 VNSE_BUF634A 
X_GR_AMP         N56919 N56891 N61579 MID N56635 N56733 CLAMP_AMP_HI_BUF634A 
X_GR_SRC         N56659 N56721 CLAMP MID GR_SRC_BUF634A 
X_H3    OUT ZO N110431 MID OP_AMP_COMPLETE_H3_BUF634A 
X_IQ_N         MID VIMON MID VEE IQ_SRC_BUF634A 
X_IQ_P         VIMON MID VCC MID IQ_SRC_BUF634A 
X_I_NP         N06456 MID FEMT_BUF634A 
X_VCM_CLAMP         N25816 MID N30913 MID N30136 N28602 VCM_CLAMP_BUF634A 
X_VOS_DRIFT         N638952 N06456 VOS_DRIFT_BUF634A 
X_W1    CLAMP N922458 N922430 N922458 OP_AMP_COMPLETE_W1_BUF634A 
X_W2    N922543 N922557 N922430 N922557 OP_AMP_COMPLETE_W2_BUF634A 
.ENDS BUF634A
*

*** Edits by Hui Wu: removed SUBCKT name in .ENDS lines -- the syntax is not wrong ***


.SUBCKT OP_AMP_COMPLETE_H3_BUF634A 1 2 3 4  
H_H3         3 4 VH_H3 -1E3
VH_H3         1 2 0V
.ENDS
*
.SUBCKT OP_AMP_COMPLETE_W1_BUF634A 1 2 3 4  
***W_W1         3 4 VW_W1 _W1
VW_W1         1 2 0V
***.MODEL         _W1 ISWITCH ROFF=1K RON=0.001 IOFF=4 ION=3.75
.PARAM	ROFF=1K
.PARAM	RON=1m
.PARAM	IOFF=4
.PARAM	ION=3.75
H_I2V	VC1 VC2 CCVS VW_W1 1
G_W1	3 4 VCR PWL(1) VC1 VC2 ION,RON IOFF,ROFF
.ENDS
*
.SUBCKT OP_AMP_COMPLETE_W2_BUF634A 1 2 3 4  
***W_W2         3 4 VW_W2 _W2
VW_W2         1 2 0V
***.MODEL         _W2 ISWITCH ROFF=1K RON=0.001 IOFF=4 ION=3.75
.PARAM	ROFF=1K
.PARAM	RON=1m
.PARAM	IOFF=4
.PARAM	ION=3.75
H_I2V	VC1 VC2 CCVS VW_W2 1
G_W2	3 4 VCR PWL(1) VC1 VC2 ION,RON IOFF,ROFF
.ENDS
*
.SUBCKT AOL_2_BUF634A VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 36
.PARAM INEG = -36
***G1 IOUT+ IOUT- VALUE=LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)
*** Edit by Hui Wu: use MAX/MIN in linear VCCS
G1 IOUT+ IOUT- VCCS VC+ VC- GAIN MAX=IPOS MIN=INEG
.ENDS
*
.SUBCKT CLAMP_AMP_HI_BUF634A VC+ VC- VIN COM VO+ VO-
.PARAM G=10
***GVO+ COM VO+ VALUE = IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)
***GVO- COM VO- VALUE = IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)
*** Edit by Hui Wu: use ternary operator
GVO+ COM VO+ CUR= 'V(VIN,COM)>V(VC+,COM) ? (V(VIN,COM)-V(VC+,COM))*G : 0' 
GVO- COM VO- CUR= 'V(VIN,COM)<V(VC-,COM) ? (V(VC-,COM)-V(VIN,COM))*G : 0'
.ENDS
*
.SUBCKT CLAMP_AMP_LO_BUF634A VC+ VC- VIN COM VO+ VO-
.PARAM G=1
***GVO+ COM VO+ VALUE = IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)
***GVO- COM VO- VALUE = IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)
***Edit by Hui Wu: use ternary operator
GVO+ COM VO+ CUR= 'V(VIN,COM)>V(VC+,COM) ? (V(VIN,COM)-V(VC+,COM))*G : 0'
GVO- COM VO- CUR= 'V(VIN,COM)<V(VC-,COM) ? (V(VC-,COM)-V(VIN,COM))*G : 0'
.ENDS
*
.SUBCKT CLAWN_BUF634A VC+ VC- IOUT+ IOUT-
***G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
G1 IOUT+ IOUT- PWL(1) VC+ VC-
+(0, 1.30E-3)
+(4.5, 1.46E-3)
+(50, 1.8E-3)
+(100, 2.0E-3)
+(200, 2.43E-3)
+(342, 2.86E-3)
+(365, 3.17E-3)
+(374, 4.17E-3)
.ENDS
*
.SUBCKT CLAWP_BUF634A VC+ VC- IOUT+ IOUT-
***G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
G1 IOUT+ IOUT- PWL(1) VC+ VC-
+(0, 1.27E-3)
+(4, 1.43E-3)
+(50, 1.7E-3)
+(100, 1.94E-3)
+(150, 2.2E-3)
+(200, 2.3E-3)
+(250, 2.55E-3)
+(316, 2.80E-3)
+(340, 3.09E-3)
+(348, 4.12E-3)
+(356, 4.42E-3)
.ENDS
*
.SUBCKT CLAW_SRC_BUF634A VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 5.24E-2
.PARAM INEG = -4.59E-2
***G1 IOUT+ IOUT- VALUE=LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)
G1 IOUT+ IOUT- VCCS VC+ VC- GAIN MAX=IPOS MIN=INEG
.ENDS
*
.SUBCKT CL_SRC_BUF634A VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 1.05E-1
.PARAM INEG = -9.19E-2
***G1 IOUT+ IOUT- VALUE=LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)
G1 IOUT+ IOUT- VCCS VC+ VC- GAIN MAX=IPOS MIN=INEG
.ENDS
*
.SUBCKT ESD_IN_BUF634A ESDN ESDP VCC VEE
*** Edit by Hui Wu: replace S element in PSPICE with G element VCR in HSPICE
***.MODEL ESD_SW VCR(RON=50 ROFF=1E12 VON=500E-3 VOFF=450E-3)
***S2 VCC ESDP ESDP VCC ESD_SW
***S4 ESDP VEE VEE ESDP ESD_SW
.PARAM RON = 50
.PARAM ROFF= 1e12
.PARAM VON = 500e-3
.PARAM VOFF= 450e-3
G2 VCC ESDP VCR PWL(1) ESDP VCC VOFF,ROFF VON,RON
G4 ESDP VEE VCR PWL(1) VEE ESDP VOFF,ROFF VON,RON
.ENDS
*
.SUBCKT ESD_OUT_BUF634A OUT VCC VEE
*.MODEL ESD_SW VCR(RON=50 ROFF=1E12 VON=500E-3 VOFF=450E-3)
*S1 VCC OUT OUT VCC ESD_SW
*S2 OUT VEE VEE OUT ESD_SW
.PARAM RON = 50
.PARAM ROFF= 1e12
.PARAM VON = 500e-3
.PARAM VOFF= 450e-3
G1 VCC OUT VCR PWL(1) OUT VCC VOFF,ROFF VON,RON
G2 OUT VEE VCR PWL(1) VEE OUT VOFF,ROFF VON,RON
.ENDS
*
.SUBCKT FEMT_BUF634A 1 2
.PARAM FLWF=0.1
.PARAM NLFF=10E5
.PARAM NVRF=850
.PARAM GLFF=PWR(FLWF,0.25)*NLFF/1164
.PARAM RNVF=1.184*PWR(NVRF,2)
***.MODEL DNVF D KF={PWR(FLWF,0.5)/1E11} IS=1.0E-16
.MODEL DNVF D (KF=FLWF**0.5/1E11 IS=1.0E-16)
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DNVF
D2 8 0 DNVF
E1 3 6 7 8 GLFF
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 RNVF
R5 5 0 RNVF
R6 3 4 1E9
R7 4 0 1E9
G1 1 2 3 4 1E-6
.ENDS
*
.SUBCKT GR_SRC_BUF634A VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 0.189
.PARAM INEG = -0.189
***G1 IOUT+ IOUT- VALUE=LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)
G1 IOUT+ IOUT- VCCS VC+ VC- GAIN MAX=IPOS MIN=INEG
.ENDS
*
.SUBCKT IQ_SRC_BUF634A VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1E-3
***G1 IOUT+ IOUT- VALUE=IF( (V(VC+,VC-)<=0),0,GAIN*V(VC+,VC-) )
G1 IOUT+ IOUT- CUR= 'V(VC+,VC-)<=0 ? 0 : GAIN*V(VC+,VC-)'
.ENDS
*
.SUBCKT VCM_CLAMP_BUF634A VIN+ VIN- IOUT- IOUT+ VP+ VP-
.PARAM GAIN = 1
***G1 IOUT+ IOUT- VALUE=LIMIT(GAIN*V(VIN+,VIN-),V(VP-,VIN-), V(VP+,VIN-))
G1 IOUT+ IOUT- VCCS VIN+ VIN- GAIN MAX='V(VP+,VIN-)' MIN='V(VP-,VIN-)'
.ENDS
*
.SUBCKT VNSE_BUF634A 1 2
.PARAM FLW=20
.PARAM NLF=10
.PARAM NVR=3.4
.PARAM GLF=PWR(FLW,0.25)*NLF/1164
.PARAM RNV=1.184*PWR(NVR,2)
***.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
.MODEL DVN D (KF=FLW**0.5/1E11 IS=1.0E-16)
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 GLF
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 RNV
R5 5 0 RNV
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
.ENDS
*
.SUBCKT VOS_DRIFT_BUF634A VOS+ VOS-
.PARAM DCvalue = 29.4E-3
.PARAM POL = 1
.PARAM DRIFT = 175E-6
***E1 VOS+ VOS- VALUE=DC+POL*DRIFT*(TEMP-27)
***In PSPICE, TNOM=27 by default
***In HSPICE, TNOM=25 by default
***Set TNOM=27 in test deck
E1 VOS+ VOS- VOL= 'DCvalue+POL*DRIFT*(temper-27)'
.ENDS
*
